US08022223B2
1-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethanone
3-Phenoxy-N-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-5-(pyridin-2-ylthio) pyridin-2-amine (0.075 g, 0.16 mmol), TEA (0.090 mL, 0.65 mmol), and acetic anhydride (0.017 g, 0.16 mmol) were added to THF and stirred for 3 hr. Water was added and extracted with CH2Cl2. The organic layer was dried, filtered, and concentrated. The residue was purified by silica gel (5% MeOH in CH2Cl2) to provide the title compound (0.044 g, 54% yield). 1H NMR (d6-DMSO) δ 12.34 (s, 1H), 8.38 (m, 2H), 7.67 (dt, 1H), 7.48 (d, 1H), 7.42 (t, 2H), 7.21-7.11 (m, 5H), 4.32 (d, 1H), 3.84 (d, 1H), 3.19 (m, 1H), 3.05 (m, 1H), 2.76 (t, 1H), 2.01 (m, 5H), 1.74 (m, 1H), 1.59 (m, 1H).

reactant | 3-Phenoxy-N-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-5-(pyridin-2-ylthio) pyridin-2-amine | 0.16 mmol, 0.075 g | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)C1CCNCC1 | C23H22N6OS2
reactant | acetic anhydride | 0.16 mmol, 0.017 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 1-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethanone | 0.044 g, 54% yield | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)C1CCN(CC1)C(C)=O | C25H24N6O2S2
